US08378095B2
To a stirred solution of ethyl 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxylate in MeOH (5 mL) at 55° C. was added 1M aqueous potassium hydroxide solution (2.075 mL, 2.08 mmol) and the reaction mixture stirred at 55° C. overnight. The reaction was cooled to room temperature and the MeOH removed in vacuo. The remaining solution was diluted with water and washed with DCM. The aqueous phase was acidified with 2M aqueous HCl (2 mL) and extracted with EtOAc. The combined organic phase was washed with brine, dried over MgSO4 and the solvent removed in vacuo to afford 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxylic acid (0.012 g, 0.039 mmol, 48%) as a white solid which was used without further purification. LCMS (1) Rt: 1.44 min; m/z (ES+) 311.

reactant | ethyl 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxylate | COC1=CC=C(C=C1)C1=C(N=C(O1)NC1=CC=CC=C1)C(=O)OCC | C19H18N2O4
reactant | potassium hydroxide | 2.08 mmol, 1M, 2.075 mL | [OH-].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | 5-(4-methoxyphenyl)-2-(phenylamino)oxazole-4-carboxylic acid | 0.039 mmol, 0.012 g, 48% | COC1=CC=C(C=C1)C1=C(N=C(O1)NC1=CC=CC=C1)C(=O)O | C17H14N2O4
